### PR TITLE
[Merged by Bors] - feat(RingTheory): `PrimeSpectrum.sigmaToPi` is an open embedding

### PR DESCRIPTION
**Pull request by chrisflav**
In particular, it is a homeomorphism for finite products.

From Pi1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 1]
```diff
@@ -675,6 +675,64 @@ instance : QuasiSeparatedSpace (PrimeSpectrum R) :=
...
+    rw [PrimeSpectrum.comap_evalRingHom_basicOpen]
+    exact isOpen_basicOpen
+
+/-- If `ι` is finite, the disjoint union of the prime spectra of the `R i` is homeomorphic
+to the prime spectrum of the product. -/
+noncomputable def sigmaHomeoPi {ι : Type*} (R : ι → Type*) [∀ i, CommRing (R i)] [Finite ι] :
+    (Σ i, PrimeSpectrum (R i)) ≃ₜ PrimeSpectrum (Π i, R i) :=
+  (isOpenEmbedding_sigmaToPi R).toHomeomorphOfSurjective (sigmaToPi_bijective R).surjective
+
+lemma sigmaHomeoPi_apply [Finite ι] (p : Σ i, PrimeSpectrum (R i)) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
@[simp]
lemma sigmaHomeoPi_apply [Finite ι] (p : Σ i, PrimeSpectrum (R i)) :
```

File: Mathlib/RingTheory/Spectrum/Prime/RingHom.lean [hunk 2]
```diff
@@ -117,13 +117,20 @@ section Pi
...
-/- TODO: show this is always a topological embedding (even when ι is infinite)
-and is a homeomorphism when ι is finite. -/
-@[simps! asIdeal] def sigmaToPi : (Σ i, PrimeSpectrum (R i)) → PrimeSpectrum (Π i, R i)
+/--
+The canonical map from a disjoint union of prime spectra of commutative semirings to
+the prime spectrum of the product semiring.
+This is always an open embedding, see `PrimeSpectrum.isOpenEmbedding_sigmaToPi` and
+a homeomorphism if `ι` is finite, see `PrimeSpectrum.sigmaHomeoPi`.
+-/
+def sigmaToPi : (Σ i, PrimeSpectrum (R i)) → PrimeSpectrum (Π i, R i)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Spectrum/Prime/RingHom.lean:126]: I guess `sigmaToPi_asIdeal` technically needs a deprecation?

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 3]
```diff
@@ -675,6 +675,65 @@ instance : QuasiSeparatedSpace (PrimeSpectrum R) :=
...
+  · rw [isOpenMap_sigma]
+    intro i
+    simp only [sigmaToPi_apply, PrimeSpectrum.isTopologicalBasis_basic_opens.isOpenMap_iff]
+    rintro - ⟨f, rfl⟩
+    rw [PrimeSpectrum.comap_evalRingHom_basicOpen]
+    exact isOpen_basicOpen
+
+/-- If `ι` is finite, the disjoint union of the prime spectra of the `R i` is homeomorphic
+to the prime spectrum of the product. -/
+noncomputable def sigmaHomeoPi {ι : Type*} (R : ι → Type*) [∀ i, CommRing (R i)] [Finite ι] :
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]: I think I’d name it `sigmaToPiHomeo`.

**Review by robin-carlier — COMMENTED** [review]
My comments are very minor.

**Comment by chrisflav** [comment]
Thanks for the review!

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
